US07507740B2
(iii) Production of 6-iodo-N4-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}pyrimidine-4,5-diamine hydroiodide
6-Chloro-N4-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}pyrimidine-4,5-diamine (400 mg) was suspended in 55% hydriodic acid (6.16 mL), sodium iodide (878 mg) was added, and the mixture was stirred with heating at 70° C. for 10 min. After cooling to room temperature, water (40 mL)/ethyl acetate (30 mL) was added. After adjusting its pH to not less than 7 with aqueous sodium hydrogen carbonate, and the mixture was stirred at room temperature for 15 min. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure to give the title compound (626 mg).

reactant | 6-Chloro-N4-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}pyrimidine-4,5-diamine | 400 mg | ClC1=C(C(=NC=N1)NC1=CC(=C(C=C1)OC=1C=NC(=CC1)C)C)N | C17H16ClN5O
reactant | sodium iodide | 878 mg | [I-].[Na+]
reactant | water | 40 mL | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | hydriodic acid | 6.16 mL | I | HI
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 6-iodo-N4-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}pyrimidine-4,5-diamine hydroiodide | 626 mg | I.IC1=C(C(=NC=N1)NC1=CC(=C(C=C1)OC=1C=NC(=CC1)C)C)N | InChI=1S/C17H16IN5O.HI/c1-10-7-12(23-17-15(19)16(18)21-9-22-17)4-6-14(10)24-13-5-3-11(2)20-8-13;/h3-9H,19H2,1-2H3,(H,21,22,23);1H
